US06030991
N-(4-bromo-5-methyl-3-isoxazolyl)-4-biphenylsulfonamide was prepared, using the method in Example 1b, from 3-amino-4-bromo-5-methylisoxazole and 4-biphenylsulfonyl chloride in 5% yield. The crude product was purified by column chromatography. After recrystallization from ethyl acetate/hexanes, N-(4-bromo-5-methyl-3-isoxazolyl)-4-biphenylsulfonamide (m.p. 154-156° C.) was obtained in 51% yield.

reactant | 3-amino-4-bromo-5-methylisoxazole | NC1=NOC(=C1Br)C | C4H5BrN2O
reactant | 4-biphenylsulfonyl chloride | C1(=CC=C(C=C1)S(=O)(=O)Cl)C1=CC=CC=C1 | C12H9ClO2S
product | N-(4-bromo-5-methyl-3-isoxazolyl)-4-biphenylsulfonamide | BrC=1C(=NOC1C)NS(=O)(=O)C1=CC=C(C=C1)C1=CC=CC=C1 | C16H13BrN2O3S
